US06197975B1
Step 2.2A 2-(3,5-dimethylphenyl)-5-amino-1H-indole
To a stirred solution of 2-(3,5-dimethylphenyl)-5-nitro-1H-indole (2 g in a mixture of 55 mL tetrahydrofuran and 20 mL methanol) was added 347 mg of 10% palladium hydroxide on carbon catalyst followed by acetic acid (1 mL of a 30% solution in water). The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 25 hours the flask was charged with an additional 320 mg catalyst and 1 mL of 30% acetic acid and re-subjected to hydrogen. After a total reaction time of 3 days, the mixture was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (hexane:ethyl acetate, 1:1) gave the title compound (1.16 g).

reactant | 2-(3,5-dimethylphenyl)-5-nitro-1H-indole | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C16H14N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 347 mg | [OH-].[OH-].[Pd+2]
solvent | water | O | H2O
product | 2-(3,5-dimethylphenyl)-5-amino-1H-indole | 1.16 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1)N | C16H16N2
